US07205302B2
2-{[N-(5,6-diphenylpyrazin-2-yl)-N-methylamino]methyl}-5-hydroxy-1,2,3,4-tetrahydronaphthalene
To 800 mg of 5-(benzyloxy)-2-{[N-(5,6-diphenylpyrazin-2-yl)-N-methylamino]methyl}-3,4-dihydronaphthalene, 18 ml of ethanol, 15 ml of ethyl acetate and 80 mg of 10% palladium-carbon were added and, after the mixture was hydrogenated under 3 atm at room temperature for 31 hours, the reaction was continued at 30° C. for 23 hours. The catalyst was removed by filtration and the filtrate was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 443 mg of the desired compound as a pale yellow oily substance.

reactant | 5-(benzyloxy)-2-{[N-(5,6-diphenylpyrazin-2-yl)-N-methylamino]methyl}-3,4-dihydronaphthalene | 800 mg | C(C1=CC=CC=C1)OC1=C2CCC(=CC2=CC=C1)CN(C)C1=NC(=C(N=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C35H31N3O
reactant | ethanol | 18 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 80 mg | [C].[Pd]
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 2-{[N-(5,6-diphenylpyrazin-2-yl)-N-methylamino]methyl}-5-hydroxy-1,2,3,4-tetrahydronaphthalene | 443 mg | C1(=CC=CC=C1)C=1N=CC(=NC1C1=CC=CC=C1)N(C)CC1CC2=CC=CC(=C2CC1)O | C28H27N3O
